### PR TITLE
feat: Implement Turing Machine Elaborator

### PR DESCRIPTION
**Pull request by Paul-Lez**
See discussion in #229. 

For now this is just a prototype - the code needs to be cleaned up a little and properly tested before we merge this!

### CODE REVIEW

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 1]
```diff
@@ -0,0 +1,193 @@
...
+
+The machine's transitions are encoded as a single string, with each state's transitions
+separated by an underscore (`_`).
+For each state, a 3m-character substring defines the behavior:
+- The first 3 characters `"ABC"` describe the action when the head reads `0`:
+  - `A`: The symbol to write (`0` or `1`).
+  - `B`: The direction to move the head (`L` or `R`).
+  - `C`: The new state (`A` through `Z`).
+- The next 3 characters `"DEF"` describe the action when the head reads `1` using the same format.
+- So on...
```
Comment (tcosmo) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:36]: This section seems outdated (multisymbol TMs)

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 2]
```diff
@@ -0,0 +1,193 @@
...
+
+The character `Z` is reserved for the halting state. The string `"---"` can be used to represent
```
Comment (tcosmo) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:38]: There is a slight subtlety here:

- We generally use "1RZ" (or actually any `1R<X>` with `<X>` bigger than the number of states) to signify that *we know* that the machine halts
- `---` is used to either mean: "we know it is never reached" OR "we don't know if it is ever reached

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 3]
```diff
@@ -0,0 +1,193 @@
...
+`0, ..., 9` and throws an error in other cases. This is used when parsing the "symbol"
+component of turing machine string representations. -/
+private def Char.toNumeralSyntax (c : Char) : TermElabM Term := do
+  unless 48 ≤ c.val && c.val ≤ 57 do
+    throwError m!"Invalid write instruction: {c} is not a numeral."
+  let n := c.val - 48
+  `($(Lean.Quote.quote n.toNat))
+
+/-- `Char.toStateSyntax c stateName` outputs the syntax of the constructor corresponding to `c`
+if `c` is a capital letter (i.e. something betwen `A` and `Z`.). For example, `A` would output
```
Comment (tcosmo) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]: betwen -> between

**Review by tcosmo — COMMENTED** [review]
Minor comments only :)

If you want to add tests for the simulation of Turing machines here are some ideas:

- Check that [1RB1LC_1RC1RB_1RD0LE_1LA1LD_1RZ0LA](https://wiki.bbchallenge.org/wiki/1RB1LC_1RC1RB_1RD0LE_1LA1LD_1RZ0LA) halts after   47,176,870 steps
- Check that [1RB2LA1RA1RA_1LB1LA3RB1RZ](https://wiki.bbchallenge.org/wiki/BB(2,4)) halts after 3,932,964 steps

In case you want to add tests about nonhalting machines then you probably need to have at least one decider implemented (i.e. algorithm that proves that a machine does not halt) and if you do, the simplest target are to syntactically recognise machines with no halting transition (i.e. no undefined transition and no mention of a state bigger than state count), like for instance [1RB0LA_1LB0RB](https://bbchallenge.org/1RB0LA_1LB0RB). The nonhalting proof is trivial: there is no instruction that makes it halt.

Slightly more ambitious but certainly off-topic for your project are loops (machines that eventually repeat the same configuration, potentially translated in space) and here are some references for implementation:

- Cyclers only (repeating exactly the same configuration, no translation, e.g. [1RB0RB_1LC1RD_0LA1RA_---1RE_1LD0LD](https://bbchallenge.org/1RB0RB_1LC1RD_0LA1RA_---1RE_1LD0LD)): [Section 2](https://www.arxiv.org/pdf/2504.20563)
- Translated Cyclers legacy algorithm (repeating the same configuration, translated in space, e.g. [1RA---_------](https://bbchallenge.org/1RA---_------); [1RB0LE_1LC0RD_---1LD_1RE0LA_1LA0RE](https://bbchallenge.org/1RB0LE_1LC0RD_---1LD_1RE0LA_1LA0RE)): [Section 3](https://www.arxiv.org/pdf/2504.20563)
- Coq-BB5 algorithms for loops, which detects both of the above with a new, elegant, algorithm: [Section 4.3](https://github.com/bbchallenge/bbchallenge-paper/tree/build-paper-pdf)

Note that these deciders have already been implemented in Lean: https://git.sr.ht/~vigoux/busybeaver/tree/master/item/Busybeaver/Deciders

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean (hunk 3 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]: Fixed!

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:36]: Now updated!

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:38]: That's good to know! 

One question I have about this: my mental model of how an `n`-state busy beaver TM works is that we have our `n` states `A, B, ...` *plus* one extra halting state `Z`, and we can halt in two different ways: 
- By transitioning to the halting state `Z`/ some-sufficiently-large-other-letter
- By transitioning to a state (not necessarily `Z`) that has no transitions to other states. This case subsumes the previous one.

Is this actually correct? (If not, we may also want to tweak the contents of `ForMathlib.Computability.TuringMachine`. Incidentally, the definition of `HaltsAt` isn't quite right; I have a branch with some fixes that I'll PR shortly).

Comment (tcosmo) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:38]: Yeah, I think we are saying the same thing.

The way we've done it at bbchallenge (for practical reasons, see [TNF Enumeration](https://wiki.bbchallenge.org/wiki/Tree_Normal_Form)) is as follows, transitions are either:

- Undefined ('---'), and the machine halts if it ever reaches one
- Defined, always of format `<b><D><s>` with `b` a symbol, `D` is L/R and `s` a state. If `s` corresponds to a state that is bigger than the number of defined states (typically, `Z`), then the machine stops

**Comment by tcosmo** [comment]
Note: I'm going offline tomorrow until about Aug 25th, I apologise in advance for this delay for future reviews

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:38]: Ok perfect!

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 4]
```diff
@@ -0,0 +1,194 @@
...
+
+private def Alphabet := ['A', 'B', 'C', 'D', 'E', 'F', 'G', 'H', 'I', 'J', 'K', 'L', 'M', 'N',
+  'O', 'P', 'Q', 'R', 'S', 'T', 'U', 'V', 'W', 'X', 'Y', 'Z']
+
+/-- `Char.toDirSyntax c` outputs the syntax corresponding to the character `c` if `c` is
+`R` or `L` and throws an error in other cases. This is used when parsing the "direction"
+component of turing machine string representations. -/
+private def Char.toDirSyntax : Char → TermElabM Term
+  | ⟨82, _⟩ => return ← `(Dir.right)
+  | ⟨76, _⟩ => return ← `(Dir.left)
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]: Does
```suggestion
  | 'R' => `(Dir.right)
  | 'L' => `(Dir.left)
```
work here?

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 5]
```diff
@@ -0,0 +1,194 @@
...
+  | char => throwError "Invalid direction {char}."
+
+/-- `Char.toBinarySyntax c` outputs the syntax corresponding to the character `c` if `c` is in
+`0, ..., 9` and throws an error in other cases. This is used when parsing the "symbol"
+component of turing machine string representations. -/
+private def Char.toNumeralSyntax (c : Char) : TermElabM Term := do
+  unless 48 ≤ c.val && c.val ≤ 57 do
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]:
```suggestion
  unless c.isDigit do
```

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 6]
```diff
@@ -0,0 +1,194 @@
...
+    throwError m!"Invalid write instruction: {c} is not a numeral."
+  let n := c.val - 48
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]:
```suggestion
  let n := c.val - '0'.val
```

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 7]
```diff
@@ -0,0 +1,194 @@
...
+  `($(Lean.Quote.quote n.toNat))
+
+/-- `Char.toStateSyntax c stateName` outputs the syntax of the constructor corresponding to `c`
+if `c` is a capital letter (i.e. something between `A` and `Z`.). For example, `A` would output
+the syntax `stateName.A` where `stateName` is the name of the type used to index sets.
+This is used when parsing the "state" component of turing machine string representations. -/
+private def Char.toStateSyntax (c : Char) (stateName : Name) : TermElabM Term := do
+  if c.val < 65 || c.val > 90 then
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]:
```suggestion
  if c.isUpper then
```

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 8]
```diff
@@ -0,0 +1,194 @@
...
+    throwError m!"Invalid state character: {c} should be between A and Z"
+  -- The convention is to use the character `Z` to denote the extra halting state.
+  if c == 'Z' then
+    `(none)
+  else
+    `($(Lean.mkIdent <| .str stateName c.toString))
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]:
```suggestion
    return Lean.mkIdent <| .str stateName c.toString
```

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 9]
```diff
@@ -0,0 +1,194 @@
...
+  unless s.length == 3 do
+    throwError m!"Invalid transition encoding: {s} should be 3 characters long."
+  if s == "---" then
+    `(none)
+  else
+    let state ← (s.get! ⟨2⟩).toStateSyntax stateName
+    let symbol ← (s.get! ⟨0⟩).toNumeralSyntax
+    let direction ← (s.get! ⟨1⟩).toDirSyntax
+    let stmt ← `(Stmt.write $symbol $direction)
+    `(some ($state, $stmt))
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]: I think better as 
```suggestion
private def String.toStmtSyntax (s : String) (stateName : Name) : TermElabM Term := do
  let [c_symbol, c_dir, c_state] := s.data | 
    throwError m!"Invalid transition encoding: {s} should be 3 characters long."
  if c_symbol = '-' ∧ c_dir = '-' ∧ c_state = '-' then
    `(none)
  else
    let state ← c_state.toStateSyntax stateName
    let symbol ← c_symbol.toNumeralSyntax
    let direction ← c_dir.toDirSyntax
    let stmt ← `(Stmt.write $symbol $direction)
    `(some ($state, $stmt))
```
`s.get! ⟨2⟩` is badly behaved, as `2` is a byte offset, but `.length` was measuring a character offset.

File: FormalConjectures/ForMathlib/Test/Computability/TuringMachine.lean [hunk 10]
```diff
@@ -45,12 +45,41 @@ match l with
 instance : alwaysHaltingMachine.IsHalting := by
   rw [isHalting_iff_exists_haltsAt]
   -- halts after zero steps
-  exact ⟨0, by aesop⟩ 
+  exact ⟨0, by aesop⟩
+
+example : turing_machine% "------" = fun _ _ => none := by
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Test/Computability/TuringMachine.lean:52]: Please add a test where the parser fails

Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Test/Computability/TuringMachine.lean:52]: Added a few!

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 11]
```diff
@@ -0,0 +1,195 @@
...
+    throwError "All portions of the string separated by `_` should have the same length"
+  let numSymbols := entryLengths[0]! / 3
+  let stateName := numStates.toStateName
+  mkStateType numStates stateName
+  let .some stateType ← checkTypeQ (.const stateName []) q(Type)
+    | throwError m!"The constant {stateName} is not a type."
+  let funConstructors ← mkMachineMatchAltExpr moveListStr (numStates.toStateName) numSymbols numStates
+  let tm ← `(term | fun a b => match a, b with $funConstructors:matchAlt*)
+  let _ ← synthInstanceQ q(Inhabited $stateType)
+  let numSymbolsQ : Q(Nat) := ToExpr.toExpr numSymbols
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]:
```suggestion
  let numSymbolsQ : Q(Nat) := Lean.toExpr numSymbols
```

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 12]
```diff
@@ -0,0 +1,195 @@
...
+  let moveListStr := descr.splitOn "_"
+  let numStates := moveListStr.length
+  let entryLengths := moveListStr.map String.length |>.dedup
+  unless entryLengths.length == 1 do
+    throwError "All portions of the string separated by `_` should have the same length"
+  let numSymbols := entryLengths[0]! / 3
+  let stateName := numStates.toStateName
+  mkStateType numStates stateName
+  let .some stateType ← checkTypeQ (.const stateName []) q(Type)
+    | throwError m!"The constant {stateName} is not a type."
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]:
```suggestion
    | throwError m!"The constant {.ofConstName stateName} is not a type."
```

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 13]
```diff
@@ -0,0 +1,195 @@
...
+exists in the environment then this will be reused without checking that this is the right
+inductive type - such checks are left to the user.
+-/
+def parseTuring (descr : String) : TermElabM Expr := do
+  let moveListStr := descr.splitOn "_"
+  let numStates := moveListStr.length
+  let entryLengths := moveListStr.map String.length |>.dedup
+  unless entryLengths.length == 1 do
+    throwError "All portions of the string separated by `_` should have the same length"
+  let numSymbols := entryLengths[0]! / 3
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:185]: I assume you also want to check here that it is divisible by `3`?

Comment (eric-wieser) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:185]: I take this back, I think the previous version actually makes more sense, since then you get an error on the last piece that isn't long enough.

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 14]
```diff
@@ -0,0 +1,197 @@
...
+  The encoding of a TM move by a (sub)string `"ABC"` works as follows:
+    - The move the TM is currently at (the dictionary's key) is determined
+      by the position of the substring
+    - `A` gives the new symbol (`0` or `1`), `B` the direction the head moves
+      (`L` or `R`) and `C` the new state (`0, ..., n-1` or `none`)
+  -/
+
+  let moves ← L.toArray.zipIdx.mapM fun (s, i) =>
+    Array.range numSymbols |>.mapM fun symbolIdx ↦ do
+      let s_first : Term ← (s.extract ⟨3 * symbolIdx⟩ ⟨3 * (symbolIdx + 1)⟩).toStmtSyntax stateName numStates
```
Comment (eric-wieser) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]: Using `⟨` to construct a string position is pretty much always wrong, as it it ignores the difference between characters and utf-8-encoded bytes. You should use `String.next` to count instead.

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean (hunk 13 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:185]: Reverted back to the previous version

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean (hunk 14 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]: Done.

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean (hunk 13 above)
Comment (Paul-Lez) [reply FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:185]: Ah actually I think it might be worth keeping this (otherwise one can run into unspecified behaviour of `String.next`)

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 15]
```diff
@@ -0,0 +1,203 @@
...
+- The first 3 characters `"ABC"` describe the action when the head reads `0`:
+  - `A`: The symbol to write (`0, 1, ..., m-1`).
+  - `B`: The direction to move the head (`L` or `R`).
+  - `C`: The new state (`A` through `Z`).
+- The next 3 characters `"DEF"` describe the action when the head reads `1` using the same format.
+- The next 3 characters `"GHI"` describe the action when the head reads `2` using the same format.
+- So on...
+
+The character `Z` is reserved for the halting state. The string `"---"` can be used to represent
+a transition to the halting state without writing or moving.
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:39]: nit: a concrete example here might be nice to fully illustrate usage

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 16]
```diff
@@ -0,0 +1,203 @@
...
+  | 'L' => `(Dir.left)
+  | char => throwError "Invalid direction {char}."
+
+/-- `Char.toBinarySyntax c` outputs the syntax corresponding to the character `c` if `c` is in
+`0, ..., 9` and throws an error in other cases. This is used when parsing the "symbol"
+component of turing machine string representations. -/
+private def Char.toNumeralSyntax (c : Char) : TermElabM Term := do
+  unless c.isDigit do
+    throwError m!"Invalid write instruction: {c} is not a numeral."
+  let n := c.val - '0'.val
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean:70]: maybe a comment somewhere explaining this line

File: FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean [hunk 17]
```diff
@@ -0,0 +1,203 @@
...
+/-- `Nat.toStateSyntax n stateName` outputs the syntax of the `n`-th constructor of the type used to
+index states. -/
+private def Nat.toStateSyntax (n : Nat) (stateName : Name) : TermElabM Term := do
+  if n > 25 then
+    throwError m!"Invalid state index {n}"
+  `($(Lean.mkIdent <| .str stateName Alphabet[n]!.toString))
+
+/-- `String.toStmtSyntax s stateName` parses a component of a Turing machine string representation
+and outputs the syntax of the corresponding (state, statement) pair
+(i.e. term of type `State × Stmt`). -/
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Computability/TuringMachine/Notation.lean]:
```suggestion
and outputs the syntax of the corresponding `(state, statement) : State × Stmt` pair. -/
```

**Review by smmercuri — APPROVED** [review]
LGTM!
